data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
249,272,[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][NH-:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([C:12]([CH3:11])=[O:13])([C:17]([CH3:18])=[O:19])[NH:15][NH:16]2,water,298.15,20.68586168017769,-16.490077163657784
4150,4753,[CH3:10][O:11][C:12](=[O:13])[N-:14][NH+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:15][N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,29.663231651305185,2.968603168491493
315,344,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][C:19]#[N:20].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:18]([C:19]#[N:20])[O:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,9.036944836874111,-68.4721205681921
2639,2926,[CH3:18][NH:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26](-[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[o+:33]1.[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([C:8]([CH3:9])=[O:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:26]1([c:27]3[cH:28][cH:29][cH:30][cH:31][cH:32]3)[C:24](=[O:25])[O:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[O:33]1,water,298.15,9.26677036848934,-31.44838157924192
1824,2022,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][N-:22][C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[N:22]([C:23]#[N:24])[NH:21][C:20]2([C:18]([O:17][CH3:16])=[O:19])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,28.79872166404985,-7.598204547862887
4643,5296,[CH3:9][NH:10][C:11](=[O:12])[N-:13][NH+:14]=[C:15]([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]1([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,30.96078799812519,-11.799147734251797
2923,3258,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]#[N+:10][O-:11]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[O:11][N:10]=[C:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,19.414498662257152,-32.54305408425793
1652,1824,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[CH:21][C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:21]([C:22]#[N:23])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,8.736867623830088,-39.98415612716892
4055,4646,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([CH3:14])[CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:12][C:13]1([CH3:14])[CH3:15],water,298.15,22.79985498938209,-29.068864148987004
5048,5736,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][n+:12]1[c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21](=[O:22])[c-:23]1-[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:23]1([c:24]3[cH:25][cH:26][cH:27][cH:28][cH:29]3)[N:12]([CH3:11])[C:13]2([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:20][C:21]1=[O:22],water,298.15,22.83266052449541,-0.8451683101217057
1694,1870,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[NH:16][C:15]3([C:13]([NH:12][CH3:11])=[O:14])[C:25](=[O:26])[O:27][CH3:28],water,298.15,17.78157010985643,-32.05279730019809
1270,1389,[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:22](=[O:23])[O:24][CH3:25])[O:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,12.954782455290582,-33.486162632966234
